US05411980
Step B: 5-n-Butyl-2,4-dihydro-2-(1-phenylpropyl)-4-[[2'-(5-tetrazolyl)biphenyl-4-yl]methyl]-3H-1,2,4-triazol-3-one
Deprotection of 5-n-butyl-2,4-dihydro-2-(1-phenylpropyl)-4-[[2'-(N-trityltetrazol-5-yl)biphenyl-4-yl]methyl]-3H-1,2,4-triazol-3-one in 67% aqueous acetic acid was accomplished by the procedure of Example 3, Step B. After work-up, the residue was flash chromatographed over silica gel (15 mL for 0.065 mmole, gradient elution using 2-20% MeOH/CH2Cl2, mass spectrum (FAB) 494 (M+1)+, mp 72°-75° C.

reactant | 5-n-butyl-2,4-dihydro-2-(1-phenylpropyl)-4-[[2'-(N-trityltetrazol-5-yl)biphenyl-4-yl]methyl]-3H-1,2,4-triazol-3-one | C(CCC)C=1N(C(N(N1)C(CC)C1=CC=CC=C1)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C48H45N7O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-n-Butyl-2,4-dihydro-2-(1-phenylpropyl)-4-[[2'-(5-tetrazolyl)biphenyl-4-yl]methyl]-3H-1,2,4-triazol-3-one | C(CCC)C=1N(C(N(N1)C(CC)C1=CC=CC=C1)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C29H31N7O
